US04937253
Alternatively, 2-(1-dodecyn-1-yl)benzaldehyde is hydrogenated in the presence of 10% palladium-on-charcoal (see Example 7b) to give 2-dodecylbenzaldehyde.

reactant | 2-(1-dodecyn-1-yl)benzaldehyde | C(#CCCCCCCCCCC)C1=C(C=O)C=CC=C1 | C19H26O
catalyst | palladium-on-charcoal | [Pd] | Pd
product | 2-dodecylbenzaldehyde | C(CCCCCCCCCCC)C1=C(C=O)C=CC=C1 | C19H30O
